US04725599
Allyl trans-2-[3-(7-Bromo-6-chloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate
According to the method of Example 4, 0.662 g (0.0025 mole) of 7-bromo-6-chlorothieno[3,2-d]pyrimidin-4(3H)-one and 1.24 g (0.0037 mole) of allyl trans-3-methoxy-2-(3-bromo-2-oxopropyl)-1-piperidinecarboxylate were combined to give the title compound: yield 0.90 g (69%); 1H-nmr (CDCl3) delta 1.3-2.1 ppm (multiplet, 4H, OCHCH2CH2CH2N), 2.7-3.1 (multiplet, 4H, COCH2CH and NCH2), 3.3 (broad singlet, 1H, CH2CHNCO), 3.4 (singlet, 3HOCH3), 4.0 (broad doublet, 1H, CHOCH3), 4.6 (broad doublet, 2H, CH2CH=CH2), 4.9-5.1 (multiple peaks, 2H, NCH2CO), 5.3 (triplet with fine splitting, 2H, CH2 =CH), 5.9 (octet, 1H, CH=CH2), 7.2 [singlet, 0.15H, thieno H (some of the 6-chloro analog, an impurity)], 8.0 [broad singlet, 0.15H, (N=CH--N from the 6-chloro analog)], 8.1 (broad singlet, 1H, N=CH--N).

reactant | 7-bromo-6-chlorothieno[3,2-d]pyrimidin-4(3H)-one | 0.0025 mole, 0.662 g | BrC1=C(SC2=C1N=CNC2=O)Cl | C6H2BrClN2OS
reactant | allyl trans-3-methoxy-2-(3-bromo-2-oxopropyl)-1-piperidinecarboxylate | 0.0037 mole, 1.24 g | CO[C@H]1[C@@H](N(CCC1)C(=O)OCC=C)CC(CBr)=O | C13H20BrNO4
product | Allyl trans-2-[3-(7-Bromo-6-chloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | BrC1=C(SC2=C1N=CN(C2=O)CC(C[C@@H]2N(CCC[C@H]2OC)C(=O)OCC=C)=O)Cl | C19H21BrClN3O5S
